US06664293B2
To a suspension of 1-amino-4-methylcyclohex-3-ene hydrochloride (0.103 g) in dichloromethane (5 ml) were added in turn pyridine (0.14 ml) and 4-fluorobenzoyl chloride (83 μl) at 0° C. The mixture was allowed to warm to ambient temperature and stirred for 1 hour, which was taken up into a mixture of water and ethyl acetate. The separated organic layer was washed in turn with hydrochloric acid (1N), aqueous sodium hydrogen carbonate, and brine, and dried over magnesium sulfate. Evaporation under reduced pressure gave a residue, which was chromatographed on silica gel (50 ml) eluting with 0-20% ethyl acetate in n-hexane to give 1-(4-fluorobenzoylamino)-4-methylcyclohex-3-ene (98 mg).

reactant | 1-amino-4-methylcyclohex-3-ene hydrochloride | 0.103 g | Cl.NC1CC=C(CC1)C
reactant | pyridine | 0.14 ml | N1=CC=CC=C1 | C5H5N
reactant | 4-fluorobenzoyl chloride | 83 μl | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | water | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-fluorobenzoylamino)-4-methylcyclohex-3-ene | 98 mg | FC1=CC=C(C(=O)NC2CC=C(CC2)C)C=C1 | C14H16FNO
